US04954518
3.0 g of 2-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was suspended in 30 ml of methylene chloride. Thereto were added 3.8 g of thionyl chloride and 0.1 ml of N,N-dimethylformamide. The mixture was refluxed for 1.5 hours. After the completion of the reaction, the solvent was removed by distillation under reduced pressure to obtain 3.1 g (yield: 98.4%) of 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride.

reactant | 2-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.0 g | C(=O)(O)C=1OC2=C(C(C1)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO7S
reactant | thionyl chloride | 3.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride | 3.1 g, yield: 98.4% | CS(=O)(=O)NC1=CC2=C(C(C=C(O2)C(=O)Cl)=O)C=C1OC1=CC=CC=C1 | C17H12ClNO6S
